US04315928
Powdered potassium hydroxide (3.3 g), 5.2 g of S-methyl-N-hydroxythioacetimidate, 0.1 g dicyclohexyl-18-crown-6, and 200 ml of benzene were stirred at room temperature for 0.5 hr. Then 8.0 g of N-methyl-N-(dimethylaminosulfenyl)carbamoyl fluoride was added slowly at 28° C. The reaction temperature was held at 28°-32° C. with external cooling. The mixture was stirred for 1 hr., and then was washed with water until neutral. After drying (MgSO4), the solution was concentrated in vacuo, and the residue was recrystallized from diisopropyl ether to give 9.0 g (76 percent yield) of S-methyl N-[N'-methyl-N'-(dimethylaminosulfenyl)carbamoyloxy]Thioacetimidate, m.p. 68°-70° C.

reactant | potassium hydroxide | 3.3 g | [OH-].[K+]
reactant | S-methyl-N-hydroxythioacetimidate | 5.2 g | C[SH-]C(C)=NO
reactant | N-methyl-N-(dimethylaminosulfenyl)carbamoyl fluoride | 8.0 g | CN(C(=O)F)SN(C)C | C4H9FN2OS
catalyst | dicyclohexyl-18-crown-6 | 0.1 g | C1CCC2C(C1)OCCOCCOC3CCCCC3OCCOCCO2 | C20H36O6
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | S-methyl N-[N'-methyl-N'-(dimethylaminosulfenyl)carbamoyloxy]Thioacetimidate | 9.0 g, 76 percent yield | CN(C(=O)ON=C(C)SC)SN(C)C | C7H15N3O2S2
